US08252797B2
4-Methylene-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a suspension of methyltriphenylphosphonium iodide (1.25 g, 3.08 mmol) in THF (20 ml) at 0° C., 4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (500 mg, 2.05 mmol) and potassium ter-butoxide (460 mg, 4.11 mmol) was added. It was stirred for overnight at room temperature. Water was added and the compound was extracted with ethyl acetate. The ethyl acetate layer was washed with brine, dried over sodium sulphate, filtered and concentrated under vacuum. Purification by column chromatography offered 4-methylene-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester as a colorless oil (0.23 g, 46%).

reactant | methyltriphenylphosphonium iodide | 3.08 mmol, 1.25 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 2.05 mmol, 500 mg | COC(=O)C1N(CC(C1)=O)C(=O)OC(C)(C)C | C11H17NO5
reactant | potassium ter-butoxide | 4.11 mmol, 460 mg | CC(C)([O-])C.[K+]
reactant | Water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-Methylene-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(CC(C1)=C)C(=O)OC(C)(C)C | C12H19NO4
